US06066638
The method of claim 14 wherein 7-bromo-2-(methylthio)-3-propylthieno[3,2-d]pyrimidin-4(3H)-one is prepared by treating 2-(methylthio)-3-propylthieno[3,2-d]pyrimidin-4(3H)-one with bromine in acetic acid.

reactant | 2-(methylthio)-3-propylthieno[3,2-d]pyrimidin-4(3H)-one | CSC=1N(C(C2=C(N1)C=CS2)=O)CCC | C10H12N2OS2
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-bromo-2-(methylthio)-3-propylthieno[3,2-d]pyrimidin-4(3H)-one | BrC1=CSC2=C1N=C(N(C2=O)CCC)SC | C10H11BrN2OS2
